US07138533B2
N-[5-(6-Bromohexanoyl)-2-methoxyphenyl]methanesulfonamide
Using N-(2-methoxyphenyl)methanesulfonamide (10.0 g) and 6-bromohexanoyl chloride (8.37 ml) according to the same method as that of Reference Example 1, the title compound (9.80 g) was obtained as colorless crystals.

reactant | N-(2-methoxyphenyl)methanesulfonamide | 10.0 g | COC1=C(C=CC=C1)NS(=O)(=O)C | C8H11NO3S
reactant | 6-bromohexanoyl chloride | 8.37 ml | BrCCCCCC(=O)Cl | C6H10BrClO
product | N-[5-(6-Bromohexanoyl)-2-methoxyphenyl]methanesulfonamide | 9.80 g | BrCCCCCC(=O)C=1C=CC(=C(C1)NS(=O)(=O)C)OC | C14H20BrNO4S
